US06649647B1
To a saturated solution of methanolic ammonia (12 ml) at room temperature was added artemisinin (1.128 g, 4 mmol). The solution was stirred for 1.5 hours and concentrated under reduced pressure to give a light yellow solid. The solid was dissolved in dichloromethane (180 ml), and 2,6-di-tert-butyl-4-methylphenol (BHT) (80 mg, 0.36 mmol), 15% sulphuric acid (0.8 ml), and silica gel (8.0 g) were added in succession. After stirring overnight at room temperature, the reaction mixture was filtered and the silica gel washed with dichloromethane. The combined organic solution and washes were concentrated under reduced pressure. Column chromatography of the residue on silica gel with acetone:dichloromethane (8:92) gave crystalline solid 11-azaartemisinin (510 mg, 45%): mp 143-145° C.; Rf=0.40 (acetone:CH2Cl2, 15:85); [α]25D=−40.9° (c 0.127, CH2Cl2); IR 3313, 3223, 2928, 2873, 1668 cm−1; CIMS (NH3) 299 (M+NH4+, 76), 282 (M+1,100); 1H NMR δ 0.93-1.01 (2H, m), 0.93 (3H, d, J=5.5 Hz), 1.07 (3H, d, J=7.2 Hz), 1.30 (3H, s), 1.25-1.42 (3H, m), 1.61-1.70 (2H, m), 1.71-1.77 (1H, m), 1.92 (2H, dm, J=10.2 Hz), 2.34 (1H, m), 3.17 (1H, pent, J=6.8 Hz), 5.33 (1H, s), 5.93 (1H, bs).

reactant | ammonia | 12 ml | N | H3N
reactant | artemisinin | 4 mmol, 1.128 g | C[C@@H]1CC[C@H]2[C@H](C(=O)O[C@H]3[C@@]24[C@H]1CC[C@@](O3)(OO4)C)C | C15H22O5
reactant | 2,6-di-tert-butyl-4-methylphenol | 0.36 mmol, 80 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | sulphuric acid | 0.8 ml | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
product | 11-azaartemisinin | 510 mg, 45% | C[C@@H]1[C@@H]2CCC(C3C24C(NC1=O)O[C@](CC3)(OO4)C)C | C15H23NO4
